US08802711B2
1-(1-chloroisoquinolin-5-yl)-3-[(1R,3S)-3-phenylcyclopentyl]urea
To a solution of 5-amino-1-chloroisoquinoline (1.00 g, 5.60 mmol) in acetonitrile (25 mL) at room temperature was added pyridine (0.14 mL, 1.7 mmol) followed by phenyl chloroformate (0.70 mL, 5.6 mmol). After 15 minutes, Example 1E (0.903 g, 5.60 mmol) and N,N-diisopropylethylamine (3.9 mL, 22.4 mmol) were added and stirring continued for 15 minutes, followed by the addition of water. The solid was collected by filtration, washed with water then ether, and dried in a vacuum oven at 50° C. to provide the title compound (1.53 g, 75%). 1H NMR (300 MHz, DMSO-d6) δ 8.66 (s, 1H), 8.46-8.28 (m, 2H), 8.03-7.86 (m, 2H), 7.73 (t, J=8.1 Hz, 1H), 7.38-7.09 (m, 5H), 6.82 (d, J=7.2 Hz, 1H), 4.16 (dd, J=13.7, 6.8 Hz, 1H), 3.20-2.98 (m, 1H), 2.44 (dd, J=12.9, 6.6 Hz, 1H), 2.19-1.93 (m, 2H), 1.86-1.59 (m, 2H), 1.59-1.39 (m, 1H). MS (DCI/NH3) m/z 366 [M+H]+.

reactant | 5-amino-1-chloroisoquinoline | 5.60 mmol, 1.00 g | NC1=C2C=CN=C(C2=CC=C1)Cl | C9H7ClN2
reactant | pyridine | 1.7 mmol, 0.14 mL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 5.6 mmol, 0.70 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | N,N-diisopropylethylamine | 22.4 mmol, 3.9 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 1-(1-chloroisoquinolin-5-yl)-3-[(1R,3S)-3-phenylcyclopentyl]urea | 1.53 g, 75% | ClC1=NC=CC2=C(C=CC=C12)NC(=O)N[C@H]1C[C@H](CC1)C1=CC=CC=C1 | C21H20ClN3O
